### PR TITLE
[Merged by Bors] - feat: a linear map which is a local embedding is an embedding

### PR DESCRIPTION
**Pull request by ADedecker**
This is a nice intermediate result that will ultimately be used to show that Fredholm operators are stable under compact perturbation.

Note that Bourbaki gives a proof which is very specific to R and C. After writing down multiple completely different proofs for the general result over the last few days, I eventually realised that their proof could just be tweaked slightly to work over a nontrivially normed field. I think it gives a really nice argument, so it's fully commented.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 1]
```diff
@@ -0,0 +1,170 @@
...
+
+The content of this file is essentially (variations of)
+[N. Bourbaki, *Théories Spectrales*, Chapitre III, § 5, n° 1, lemme 1][bourbaki2023], except
+Bourbaki's proof is very specific to `𝕜 = ℝ` or `𝕜 = ℂ`, since it relies crucially on balanced
+sets being connected.
+
+Nevertheless, we are able to adapt their arguments to arbitrary nontrivially normed fields.
+The key argument, replacing the fact that a connected set cannot be covered nontrivially by
+disjoint open sets, is that a balanced set `W` cannot intersect nontrivially both `c • V`
+and `Vᶜ`, when `V` is a neighborhood of `0` and `0 < ‖c‖ < 1`. We refer to the (highly commented !)
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
and `Vᶜ`, when `V` is a neighborhood of `0` and `0 < ‖c‖ < 1`. We refer to the (highly commented!)
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 2]
```diff
@@ -0,0 +1,170 @@
...
+
+open Topology Filter Bornology Set
+open scoped Pointwise Set.Notation
+
+variable {𝕜₁ 𝕜₂ E F : Type*} [NontriviallyNormedField 𝕜₁] [NontriviallyNormedField 𝕜₂]
+  [AddCommGroup E] [AddCommGroup F] [Module 𝕜₁ E] [Module 𝕜₂ F] {σ : 𝕜₁ →+* 𝕜₂} {f : E →ₛₗ[σ] F}
+
+variable (𝕜₁) in
+/-- Consider a vector space `E` over a `NontriviallyNormedField` `𝕜`, and `t₁`, `t₂` two topologies
+on `E` which are compatible with the vector space structure.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: Isn’t it clearer to say `t₁` and `t₂` are two topological vector space topologies? Or do you want to avoid repeating “topology”?

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 3]
```diff
@@ -0,0 +1,170 @@
...
+    [@ContinuousSMul 𝕜₁ E _ _ t₁] [@ContinuousSMul 𝕜₁ E _ _ t₂]
+    {V : Set E} (V_mem : V ∈ @nhds E t₁ 0) (H : @nhds E t₁ 0 ⊓ 𝓟 V = @nhds E t₂ 0 ⊓ 𝓟 V) :
+    t₁ = t₂ := by
+  classical
+  -- For `i = 1, 2`, denote by `𝓕ᵢ` the filter of neighborhoods of `0` for the topology `tᵢ`.
+  set 𝓕₁ := @nhds E t₁ 0
+  set 𝓕₂ := @nhds E t₂ 0
+  -- Note that, because `V ∈ 𝓕₁`, `H` may be rewritten as `𝓕₁ = 𝓕₂ ⊓ 𝓟 V`.
+  replace H : 𝓕₁ = 𝓕₂ ⊓ 𝓟 V := by simpa [← H]
+  -- Because both `t₁` and `t₂` are additive group topologies, we have to show `𝓕₁ = 𝓕₂`.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: The contrast between “we have” and `suffices` sounds a bit weird (but I understand this is actually an equivalence).

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 4]
```diff
@@ -0,0 +1,170 @@
...
+variable (𝕜₁) in
+/-- Consider a vector space `E` over a `NontriviallyNormedField` `𝕜`, and `t₁`, `t₂` two topologies
+on `E` which are compatible with the vector space structure.
+
+Assume that there is a `t₁`-neighborhood of zero `V` such that the two topogies induce the
+same filter of neighborhoods of `0` *in the subspace `V`*. Then `t₁ = t₂`. -/
+lemma ContinuousSMul.topology_eq_of_nhds_inf_principal_eq (t₁ t₂ : TopologicalSpace E)
+    [@IsTopologicalAddGroup E t₁ _] [@IsTopologicalAddGroup E t₂ _]
+    [@ContinuousSMul 𝕜₁ E _ _ t₁] [@ContinuousSMul 𝕜₁ E _ _ t₂]
+    {V : Set E} (V_mem : V ∈ @nhds E t₁ 0) (H : @nhds E t₁ 0 ⊓ 𝓟 V = @nhds E t₂ 0 ⊓ 𝓟 V) :
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean:81]: This statement really looks weird with `V_mem` immediately implying that the LHS of `H` simplifies to `@nhds E t₁ 0`. I guess this is what comes up naturally in the proof but I still recommend thinking five more minutes about this.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 5]
```diff
@@ -0,0 +1,170 @@
...
+  set 𝓕₂ := @nhds E t₂ 0
+  -- Note that, because `V ∈ 𝓕₁`, `H` may be rewritten as `𝓕₁ = 𝓕₂ ⊓ 𝓟 V`.
+  replace H : 𝓕₁ = 𝓕₂ ⊓ 𝓟 V := by simpa [← H]
+  -- Because both `t₁` and `t₂` are additive group topologies, we have to show `𝓕₁ = 𝓕₂`.
+  suffices 𝓕₁ = 𝓕₂ by rwa [IsTopologicalAddGroup.ext_iff] <;> infer_instance
+  -- If we can show that `V ∈ 𝓕₂` we are done, because then `𝓕₁ = 𝓕₂ ⊓ 𝓟 V = 𝓕₂`.
+  suffices V ∈ 𝓕₂ by simpa [H]
+  -- Hence, let us show that `V ∈ 𝓕₂`. Fix a scalar `c` with `0 < ‖c‖ < 1`.
+  obtain ⟨c, hc₀, hc₁⟩ := NormedField.exists_norm_lt_one 𝕜₁
+  have c_ne : c ≠ 0 := fun h ↦ by simp [h] at hc₀
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
  have c_ne : c ≠ 0 := norm_pos_iff.mp hc₀ 
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 6]
```diff
@@ -0,0 +1,170 @@
...
+  -- We know that `c • V ∈ 𝓕₁ = 𝓕₂ ⊓ 𝓟 V`.
+  have cV_mem : c • V ∈ 𝓕₂ ⊓ 𝓟 V := by
+    rw [← H]
+    let := t₁
+    simpa [𝓕₁, set_smul_mem_nhds_zero_iff c_ne]
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
    simpa [← H, 𝓕₁, set_smul_mem_nhds_zero_iff c_ne]
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 7]
```diff
@@ -0,0 +1,170 @@
...
+  suffices W ⊆ V from mem_of_superset W_mem_𝓕₂ this
+  -- By contradiction, assume that we have a point `w ∈ W \ V`
+  intro w w_in_W
+  by_contra! w_notin_V
+  -- Now, because `V` is absorbent, there exists a natural `k` such that `c ^ k • w ∈ V`.
+  have exists_scale : ∃ k : ℕ, c ^ k • w ∈ V := by
+    have V_abs : Absorbent 𝕜₁ V := let := t₁; absorbent_nhds_zero V_mem
+    have : Tendsto (fun k : ℕ ↦ c ^ k) atTop (𝓝[≠] 0) := by
+      simp [tendsto_nhdsWithin_iff, c_ne, tendsto_pow_atTop_nhds_zero_iff_norm_lt_one, hc₁]
+    exact this.eventually (V_abs.eventually_nhdsNE_zero w) |>.exists
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
    exact V_abs.eventually_nhdsNE_zero w |> this.eventually |>.exists
```

🙊

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 8]
```diff
@@ -0,0 +1,170 @@
...
+  -- Denote by `k₀` the *smallest* such `k`.
+  set k₀ := Nat.find exists_scale
+  have k₀_spec : c ^ k₀ • w ∈ V := Nat.find_spec exists_scale
+  -- Note that `1 ≤ k₀` since `w ∉ V`
+  have k₀_pos : 0 < k₀ := pos_iff_ne_zero.mpr fun h ↦ by simp [h, w_notin_V] at k₀_spec
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: I know this is equivalent but the different spelling in the comment is distracting. It didn’t know (or didn’t remember) that `simp` closes the goal after turning an assumption into `False`. The resulting tactic script reads pretty weird.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 9]
```diff
@@ -0,0 +1,170 @@
...
+  -- By definition, `c ^ k₀ • w ∈ V`, and becaus `W` is balanced `c ^ k₀ • w ∈ W`.
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
  -- By definition, `c ^ k₀ • w ∈ V`, and because `W` is balanced `c ^ k₀ • w ∈ W`.
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 7 above)
Comment (PatrickMassot) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: More importantly, why don’t we have
```lean
theorem tendsto_smul_pow_of_norm_lt [TopologicalSpace E] [IsTopologicalAddGroup E] 
    [ContinuousSMul 𝕜₁ E] {c : 𝕜₁} (hc : ‖c‖ < 1) (w : E) : 
    Tendsto (fun k ↦ c ^ k • w) atTop (𝓝 0) := by
  intro V V_mem
  have V_abs : Absorbent 𝕜₁ V := absorbent_nhds_zero V_mem
  have F₁ : Tendsto (fun k : ℕ ↦ c ^ k) atTop (𝓝 0) := by
    simp [tendsto_pow_atTop_nhds_zero_iff_norm_lt_one, hc]
  have F₂ : ∀ᶠ (c : 𝕜₁) in 𝓝 0, c • w ∈ V := by 
    simpa using (V_abs w).eventually_nhds_zero (mem_of_mem_nhds V_mem) 
  exact F₁.eventually F₂
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 10]
```diff
@@ -0,0 +1,170 @@
...
+  -- Thus, `c ^ k₀ • w ∈ V ∩ W ⊆ c • V`.
+  have : c ^ k₀ • w ∈ c • V :=
+    hW ⟨W_bal.smul_mem (by simpa using pow_le_one₀ hc₀.le hc₁.le) w_in_W, k₀_spec⟩
+  -- But then, we have `c ^ (k₀ - 1) • w ∈ V`.
+  have : c ^ (k₀ - 1) • w ∈ V := by
+    rwa [pow_sub₀ c c_ne k₀_pos, pow_one, mul_comm, mul_smul, ← mem_smul_set_iff_inv_smul_mem₀ c_ne]
+  -- This contradicts the minimality of `k₀`.
+  exact Nat.find_min exists_scale (tsub_lt_self k₀_pos one_pos) this
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: I know this kind of minimality+contradiction argument is rather common, but to me it feels like a convoluted way to tell the story of a finite descent to zero. Somewhere in Mathlib there is probably something like:
```lean
lemma descente {P : ℕ → Prop} {n₀} (hn₀ : P n₀) (hP' : ∀ n, P (n + 1) → P n) : P 0 := by
  induction n₀ with
  | zero => exact hn₀
  | succ n ih => exact ih (hP' n hn₀)
```

somewhat hidden in your proof (and probably also 

and then the end of the proof becomes
```lean
  suffices W ⊆ V from mem_of_superset W_mem_𝓕₂ this
  intro w w_in_W
  suffices c^0 • w ∈ V by simpa
  -- Now, because `V` is a neighborhood of `0`, there exists a natural `k` such that `c ^ k • w ∈ V`.
  have exists_scale : ∃ k : ℕ, c ^ k • w ∈ V := 
    let := t₁; tendsto_smul_pow_of_norm_lt hc₁ w |>.eventually_mem V_mem |>.exists
  -- and from there we can descend to `c^0 • w ∈ V`
  apply descente (P := fun n ↦ c^n • w ∈ V) exists_scale.choose_spec fun k hk ↦ ?_
  have F : c ^ (k + 1) • w ∈ c • V := 
    hW ⟨W_bal.smul_mem (by simp [pow_le_one₀ (norm_nonneg c) hc₁.le]) w_in_W, hk⟩
  rw [pow_succ, mul_comm, mul_smul] at F
  exact (smul_mem_smul_set_iff₀ c_ne V _).1 F
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 11]
```diff
@@ -0,0 +1,170 @@
...
+lemma ContinuousSMul.topology_eq_of_induced_eq (t₁ t₂ : TopologicalSpace E)
+    [@IsTopologicalAddGroup E t₁ _] [@IsTopologicalAddGroup E t₂ _]
+    [@ContinuousSMul 𝕜₁ E _ _ t₁] [@ContinuousSMul 𝕜₁ E _ _ t₂]
+    {V : Set E} (V_mem : V ∈ @nhds E t₁ 0)
+    (H : t₁.induced ((↑) : V → E) = t₂.induced ((↑) : V → E)) :
+    t₁ = t₂ := by
+  apply topology_eq_of_nhds_inf_principal_eq 𝕜₁ t₁ t₂ V_mem
+  set o : V := ⟨0, letI := t₁; mem_of_mem_nhds V_mem⟩
+  simp_rw [← map_comap_setCoe_val, show 0 = (o : E) from rfl, ← nhds_induced]
+  congr
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
  rw [H]
```

feels a bit less magic.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 12]
```diff
@@ -0,0 +1,170 @@
...
+
+variable [TopologicalSpace E] [TopologicalSpace F]
+  [IsTopologicalAddGroup E] [IsTopologicalAddGroup F]
+  [ContinuousSMul 𝕜₁ E] [ContinuousSMul 𝕜₂ F] [RingHomIsometric σ]
+
+lemma LinearMap.isInducing_of_restrict_nhds_zero {V : Set E}
+    (V_mem : V ∈ 𝓝 0) (H : IsInducing (Set.domRestrict V f)) : IsInducing f := by
+  rw [isInducing_iff]
+  have := topologicalAddGroup_induced f
+  have := continuousSMul_inducedₛₗ f σ.isometry.continuous
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean:152]: Maybe add a comment saying those two lines register the fact that `E` is also a TVS when equipped with the topology induced by `f`?

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 13]
```diff
@@ -0,0 +1,170 @@
...
+  apply ContinuousSMul.topology_eq_of_induced_eq 𝕜₁ _ (.induced f _) V_mem
+  rw [induced_compose, ← domRestrict_eq, ← H.eq_induced, ← IsInducing.subtypeVal.eq_induced]
+
+lemma LinearMap.isEmbedding_of_restrict_nhds_zero {V : Set E}
+    (V_mem : V ∈ 𝓝 0) (H : IsEmbedding (Set.domRestrict V f)) : IsEmbedding f := by
+  refine ⟨isInducing_of_restrict_nhds_zero V_mem H.isInducing, ?_⟩
+  have f_injOn : InjOn f V := by simpa [injOn_iff_injective] using H.injective
```
Comment (PatrickMassot) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
  have f_injOn : InjOn f V := injOn_iff_injective.2 H.injective
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 6 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: I'm actually very surprised this works, given that `rw [← H]; unfold 𝓕₁; exact set_smul_mem_nhds_zero_iff c_ne |>.mpr V_mem` does not work due to the multiple topologies around. I'm a bit worried this `simpa` is abusing something, but for now it works so I'll keep it.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: Indeed I don't like repeating topology. I went with `vector space topology` (as in the module docstring), I think it's clear but I'm never sure.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 10 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: Indeed, using [Nat.decreasingInduction](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Nat/Init.html#Nat.decreasingInduction) makes the proof quite a lot nicer, thanks!

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 8 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: (This does not exist anymore in any case)

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 4 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean:81]: It's does not make the *proof* easier, it makes the application easier (since the hypothesis is that two topologies coincide on `V`). To me the current statement reads a bit more natural, but if you think it's too weird I'm fine with changing it.

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean (hunk 7 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]: First, I should have get rid of going through `Absorbent`: this was a relic from trying to separate the geometry from the topology, but the proof is now:
```
  have : ∃ n : ℕ, c ^ n • w ∈ V := by
    let := t₁
    have : Tendsto (fun k : ℕ ↦ c ^ k • w) atTop (𝓝 0) :=
      zero_smul 𝕜₁ w ▸ (tendsto_pow_atTop_nhds_zero_of_norm_lt_one hc₁).smul_const w
    exact this.eventually_mem V_mem |>.exists
```

Then, I'm not sure about adding a lemma just for `zero_smul 𝕜₁ w ▸ (tendsto_pow_atTop_nhds_zero_of_norm_lt_one hc₁).smul_const w`, do you think it's worth it?

**Comment by PatrickMassot** [comment]
bors d+

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 14]
```diff
@@ -0,0 +1,167 @@
...
+locally closed at `0` is in fact closed, which we don't have yet
+
+## Implementation details
+
+The content of this file is essentially (variations of)
+[N. Bourbaki, *Théories Spectrales*, Chapitre III, § 5, n° 1, lemme 1][bourbaki2023], except
+Bourbaki's proof is very specific to `𝕜 = ℝ` or `𝕜 = ℂ`, since it relies crucially on balanced
+sets being connected.
+
+Nevertheless, we are able to adapt their arguments to arbitrary nontrivially normed fields.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
Nevertheless, we are able to adapt their proof to arbitrary nontrivially normed fields.
```

File: Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean [hunk 15]
```diff
@@ -0,0 +1,167 @@
...
+The content of this file is essentially (variations of)
+[N. Bourbaki, *Théories Spectrales*, Chapitre III, § 5, n° 1, lemme 1][bourbaki2023], except
+Bourbaki's proof is very specific to `𝕜 = ℝ` or `𝕜 = ℂ`, since it relies crucially on balanced
+sets being connected.
+
+Nevertheless, we are able to adapt their proof to arbitrary nontrivially normed fields.
+The key argument, replacing the fact that a connected set cannot be covered nontrivially by
+disjoint open sets, is that a balanced set `W` cannot intersect nontrivially both `c • V`
+and `Vᶜ`, when `V` is a neighborhood of `0` and `0 < ‖c‖ < 1`. We refer to the (highly commented!)
+proof for more precision.
```
Comment (ADedecker) [inline Mathlib/Topology/Algebra/Module/EmbeddingOfLocal.lean]:
```suggestion
proof for more details.
```

**Comment by ADedecker** [comment]
Thanks for the quick review!

bors merge
